US05576335
To a solution of N-(2-aminobenzyl)-N',N'-dimethyl-1,4-phenylenediamine (0.6 g) in dichloromethane (10 ml) was added under ice-cooling heptyl isocyanate (0.4 g) and the mixture was stirred overnight while returning slowly to room temperature. The solvent was distilled off and the residue was purified by a silica gel column chromatography (chloroform:ethyl acetate=20:1) to give 1-(4-dimethylaminophenyl)-1-[2-(3-heptylureido)benzyl]-3-heptylurea as a non-crystallizable solid (0.55 g, 44%).

reactant | N-(2-aminobenzyl)-N',N'-dimethyl-1,4-phenylenediamine | 0.6 g | NC1=C(CNC2=CC=C(C=C2)N(C)C)C=CC=C1 | C15H19N3
reactant | heptyl isocyanate | 0.4 g | C(CCCCCC)N=C=O | C8H15NO
solvent | dichloromethane | 10 ml | ClCCl | CH2Cl2
product | 1-(4-dimethylaminophenyl)-1-[2-(3-heptylureido)benzyl]-3-heptylurea | 0.55 g, 44% | CN(C1=CC=C(C=C1)N(C(=O)NCCCCCCC)CC1=C(C=CC=C1)NC(=O)NCCCCCCC)C | C31H49N5O2
